US07745642B2
(±)-N-[(1-aminocyclopentyl)(phenyl)methyl]-2,6-dimethylbenzamide
The title compound (1.14 g; 71%) was prepared from the catalytic hydrogenation of (±)-N-[{1-[bis(phenylmethyl)amino]cyclopentyl}(phenyl)methyl]-2,6-dimethylbenzamide D34 (2.51 g; 5 mmol) over 10% Pd/Carbon (0.4 g) in 3 MHCl (8 ml) and ethanol (150 ml) in a similar manner to that described in D29. The ethanol was evaporated off in vacuo and the residual material was partitioned between DCM and sodium bicarbonate solution and dried (Na2SO4). The filtrate was reduced in volume by evaporation in vacuo and loaded onto an SCX cartridge. Washing with DCM, then methanol followed by elution with 1M ammonia in methanol afforded the title product (90 mg, 88%). 1H NMR (CDCl3) δ: 0.98-1.96 (10H, m). 2.23 (6H, s), 4.97 (1H, m), 7.0 (2H, m), 7.16 (1H, m), 7.22-7.41 (6H, m); Mass Spectrum (Electrospray LC/MS). Found 323 (MH+). C21H26N2O requires 322. Ret. time 1.69 min.

reactant | (±)-N-[{1-[bis(phenylmethyl)amino]cyclopentyl}(phenyl)methyl]-2,6-dimethylbenzamide | C1(=CC=CC=C1)CN(C1(CCCC1)C(NC(C1=C(C=CC=C1C)C)=O)C1=CC=CC=C1)CC1=CC=CC=C1 | C35H38N2O
catalyst | Pd Carbon | 0.4 g | [Pd].[C]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | (±)-N-[(1-aminocyclopentyl)(phenyl)methyl]-2,6-dimethylbenzamide | 90 mg, 88% | NC1(CCCC1)C(NC(C1=C(C=CC=C1C)C)=O)C1=CC=CC=C1 | C21H26N2O
